US08003649B2
10% Palladium on carbon (3.44 g, 3.23 mmol) was added to benzyl 4-[4-(benzyloxy)phenyl]-4-hydroxypiperidine-1-carboxylate (13.49 g, 32.31 mmol) in MeOH (146 mL). The resulting mixture was stirred at room temperature for 20 hours under an atmosphere of hydrogen. The reaction mixture was filtered and evaporated to afford crude product. The crude material was triturated with DCM (100 mL) and MeOH (50 mL) to give a solid which was collected by filtration and dried under vacuum to give 4-(4-hydroxyphenyl)piperidin-4-ol (4.16 g, 66.6%).

reactant | benzyl 4-[4-(benzyloxy)phenyl]-4-hydroxypiperidine-1-carboxylate | 32.31 mmol, 13.49 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)O | C26H27NO4
catalyst | Palladium on carbon | 3.23 mmol, 3.44 g | [Pd] | Pd
solvent | MeOH | 146 mL | CO | CH4O
product | 4-(4-hydroxyphenyl)piperidin-4-ol | 4.16 g, 66.6% | OC1=CC=C(C=C1)C1(CCNCC1)O | C11H15NO2
